US05371064
A mixture of methyl 2 -methylsulphonyl-3-phenylsulphenylbenzoate (8.3 g), ethanol (50 ml) and 2N sodium hydroxide (25 ml) was heated at reflux for one hour and then added to water. The inorganic phase was washed with ethyl acetate, acidified with concentrated hydrochloric acid and extracted with ethyl acetate. This organic phase was dried over sodium sulphate, filtered and evaporated giving 7.9 g of 2-methylsulphonyl-3-phenylsulphenylbenzoic acid as a white solid, m.p. 185.4°-186.0° C.

reactant | methyl 2 -methylsulphonyl-3-phenylsulphenylbenzoate | 8.3 g | CS(=O)(=O)C1=C(C(=O)OC)C=CC=C1SC1=CC=CC=C1 | C15H14O4S2
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 2N, 25 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 2-methylsulphonyl-3-phenylsulphenylbenzoic acid | 7.9 g | CS(=O)(=O)C1=C(C(=O)O)C=CC=C1SC1=CC=CC=C1 | C14H12O4S2
